US07994185B2
N-{2-chloro-3-[2-(1,1-dimethylethyl)-5-(4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}-2-furansulfonamide
Following a procedure analogous to the procedure described in Example 26 using N-{2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]phenyl}-2-furansulfonamide (75 mg, 0.147 mmol) and ammonium formate (93 mg, 1.47 mmol), the title compound was obtained as a yellow solid (23 mg, 34% yield). MS (ESI): 475 [M+H]+.

reactant | N-{2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]phenyl}-2-furansulfonamide | 0.147 mmol, 75 mg | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)Cl)C(C)(C)C)NS(=O)(=O)C=1OC=CC1 | C21H18Cl2N4O3S2
reactant | ammonium formate | 1.47 mmol, 93 mg | C(=O)[O-].[NH4+]
product | N-{2-chloro-3-[2-(1,1-dimethylethyl)-5-(4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}-2-furansulfonamide | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC=NC=C1)C(C)(C)C)NS(=O)(=O)C=1OC=CC1 | C21H19ClN4O3S2
